US07071365B2
Synthesis of 3-tert-butyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol
A mixture of 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol (1.0 g, 3.4 mmol), tert-butyl alcohol (1.4 g), trifluoromethanesulfonic acid (0.04 g) was dissolved in 2 ml 1,2-dichlorobenzene. The mixture was heated at 120° C. for 2.5 hours. GC showed 97% conversion to 87% mono-butylated product, and 10% bis-butylated product. The mixture was cooled, and diluted with 10 ml water and 10 ml ether. The layers were separated, and the organic layer was washed with sodium bicarbonate solution, dried, and concentrated. The crude product was purified by flash column chromatography (silica gel, 2% ethyl acetate/hexanes) to yield 0.7 g of white solid.

reactant | 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 3.4 mmol, 1.0 g | C=1(C(=CC=C2CCCCC12)C1=CC=2CCCCC2C=C1)O | C20H22O
reactant | tert-butyl alcohol | 1.4 g | C(C)(C)(C)O | C4H10O
reactant | trifluoromethanesulfonic acid | 0.04 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | 1,2-dichlorobenzene | 2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | 10 ml | O | H2O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 3-tert-butyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 0.7 g | C(C)(C)(C)C1=C(C(=C2CCCCC2=C1)O)C1=CC=2CCCCC2C=C1 | C24H30O
